US09034866B2
Into a 20-L 4-necked round-bottom flask was placed trifluoroacetic acid (12 L), methyl 3-(4-bromophenyl)-3-hydroxycyclobutane-1-carboxylate (2330 g, 8.17 mol, 1.00 equiv), followed by the addition of Et3SiH (3556 g, 30.58 mol, 5.00 equiv) dropwise with stirring at 10-25° C. The resulting solution was stirred at room temperature for 0.5 h, concentrated under vacuum, diluted with 8 L of H2O and extracted with 1×8 L of ethyl acetate. The organic layers were combined, washed with 1×3 L of saturated aqueous sodium bicarbonate and 1×2 L of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 2175 g (crude) of methyl 3-(4-bromophenyl)cyclobutane-1-carboxylate as an orange oil.

reactant | trifluoroacetic acid | 12 L | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 3-(4-bromophenyl)-3-hydroxycyclobutane-1-carboxylate | 8.17 mol, 2330 g, 1.00 equiv | BrC1=CC=C(C=C1)C1(CC(C1)C(=O)OC)O | C12H13BrO3
reactant | Et3SiH | 30.58 mol, 3556 g, 5.00 equiv | [SiH](CC)(CC)CC | C6H16Si
product | methyl 3-(4-bromophenyl)cyclobutane-1-carboxylate | 2175 g | BrC1=CC=C(C=C1)C1CC(C1)C(=O)OC | C12H13BrO2
